US07834063B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(cyclopropylmethyl)-N1-[(1S)-1-phenylethyl]glycinamide
Synthesized as described for Example 91C using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycine and (1S)-1-phenylethanamine: MS (APCI) m/z 402 (M+1).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)glycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC1CC1)C(F)(F)F | C14H13F3N2O2
reactant | (1S)-1-phenylethanamine | C1(=CC=CC=C1)[C@H](C)N | C8H11N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(cyclopropylmethyl)-N1-[(1S)-1-phenylethyl]glycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)N[C@@H](C)C1=CC=CC=C1)CC1CC1)C(F)(F)F | C22H22F3N3O
